US06683184B2
1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-diami-nophenyl)piperazine
1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dinitrophenyl)piperazine (200 mg, 0.44 mmol) was dissolved in ethanol (30 ml) and thereto 10% palladium/carbon (10 mg) was added. The mixture was hydrogenated for 4 hours, and then filtered to remove the 10% palladium/carbon. The filtrate was concentrated and purified by column chromatography to obtain the titled compound.

reactant | 1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dinitrophenyl)piperazine | 0.44 mmol, 200 mg | COC1=NC2=CC=CC=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C20H19N7O6
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 10 mg | [Pd] | Pd
product | 1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-diami-nophenyl)piperazine | COC1=NC2=CC=CC=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)N)N | C20H23N7O2
